US07348337B2
Preparation of 4-(1-Phenyl-1-(3-hydroxymethylphenyl)-methylene)-piperidine-1-carboxylic acid tert-butyl ester:
To a mixture of 4-(1-iodo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester (0.132 g, 0.33 mmol) and 3-hydroxymethylphenylboronic acid (0.050 g 0.33 mmol) in DME (3 mL) was added 2M sodium carbonate (0.65 mL, 1.30 mmol). The reaction vessel was then flushed with Ar for 10 minutes, Pd2dba3 (0.015 g, 0.016 mmol) was added, the vessel was sealed and the mixture was heated at 90° C. for 16 h. The cooled mixture was filtered (0.45 μm syringe filter) and the filtrate was evaporated. The residue was purified by preparative HPLC to give the title compound (0.037 g, 71%) as a white solid:

reactant | 4-(1-iodo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 0.132 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=CC=CC=C1)I | C17H22INO2
reactant | 3-hydroxymethylphenylboronic acid | 0.33 mmol, 0.050 g | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | sodium carbonate | 1.30 mmol, 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | Pd2dba3 | 0.016 mmol, 0.015 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(1-Phenyl-1-(3-hydroxymethylphenyl)-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 0.037 g, 71% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=CC(=CC=C1)CO)C1=CC=CC=C1 | C24H29NO3
